Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ yo F with past medical history significant
for HTN, HLD, and ~30 pack year smoking history who presents 
with
3 days of cough. Patient reports that 3 days prior to admission,
she began to experience a non-productive cough that lead to her
feeling short of breath. She also reports feeling general body
pain and "like she has the flu". 2 days prior to admission, she
began to experience watery diarrhea. 1 day prior to admission,
patient vomited after eating lunch. Patient's son, who lives 
with
her, reportedly had a cold the last couple of weeks. She was 
then
taken to her PCP, who sent her to an OSH with concern for
pneumonia. At the OSH, CTA was found to be negative for PNA and
PE but showed changes c/w COPD. However, there was concern for
her respiratory status and that she might need ICU level of 
care,
so patient was transferred to ___ ED.   

Of note, patient has a ~30 pack year smoking history, quit ___
years ago. She also has chronic constipation and has been
hospitalized twice in the past year ___ impaction, last in ___. She is on a bowel regimen of standing Senna, Miralaax, and
Lactulose PRN.  

In the ED, initial VS were T99.1, ___, BP 129/73, RR 18, Sat 
96%
2LNC. Exam notable for tachycardia, tachypnea, decreased air
movement, and non-tender, non-distended abdomen.    
Labs showed normal WBC, BUN/Cr > ___, lactate 2.0, trop 0.6.    


Received duonebs, azithromycin 500mg, prednisone 40mg, and O2.   

Decision was made to admit to medicine for further management of
presumed COPD exacerbation. Patient was also noted to have 
atrial
fibrillation on telemetry although without any prior cardiac
history.   

On arrival to the floor, patient reports continued cough,
improved after nebulizer treatment.  She reports similar episode
of cough ___ year ago that improved with cough medication. She 
also
notes anorexia, which she states is only mildly increased from
baseline poor appetite. She denies fevers, chills, rhinorrhea,
chest pain, heart palpitations, nausea, vomiting, abdominal 
pain,
blood in BM, and urinary symptoms. 

 
Past Medical History:
HTN
HLD
Hyperactive bladder
Chronic constipation
Cataracts
L eye blindness
Hysterectomy at age ___
 
Social History:
___
Family History:
Mother - died at age ___ from uterine cancer
Father - died at age ___ from MI
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
#ERROR!
VS: 97.8 154/88 102 22 93% ___  
GENERAL: elderly, frail appearing woman, lying comfortably in 
bed, alert and awake, breathing comfortably with NC in place, in 
NAD.   
HEENT: EOMI, anicteric sclera, pink conjunctiva, dry mucus 
membranes, clear OP, nontender supple neck, no LAD.   
HEART: irregular rhythm, tachycardic, no murmurs, gallops, or 
rubs  
LUNGS: decreased air movement throughout R>L, diffuse wheezing, 
breathing without use of accessory muscles  
ABDOMEN: +BS, nondistended, nontender in all quadrants, no 
rebound/guarding 
EXTREMITIES: WWP, no cyanosis, clubbing or edema, moving all 4 
extremities with purpose   
NEURO: CN II-XII intact 

DISCHARGE PHYSICAL EXAM:
#ERROR!
VS: 97.9 89 131/73 97 RA
GENERAL: elderly, frail appearing woman, breathing comfortably 
on RA, in NAD.  
HEART: RRR, nml s1/s2, no murmurs, gallops, or rubs  
LUNGS: improved air movement throughout, bibasilar crackles, no 
wheezes. 
ABDOMEN: +BS, non-distended, nontender in all quadrants, no 
rebound/guarding 
EXTREMITIES: WWP, no cyanosis, clubbing or edema, moving all 4 
extremities with purpose 
 
Pertinent Results:
ADMISSION LABS:
#ERROR!

___ 12:05AM BLOOD WBC-8.4 RBC-4.46 Hgb-13.2 Hct-41.1 MCV-92 
MCH-29.6 MCHC-32.1 RDW-14.7 RDWSD-49.7* Plt ___
___ 12:05AM BLOOD Neuts-88.7* Lymphs-3.2* Monos-7.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-7.47* AbsLymp-0.27* 
AbsMono-0.63 AbsEos-0.00* AbsBaso-0.02
___ 12:40AM BLOOD ___ PTT-28.3 ___
___ 12:40AM BLOOD Glucose-131* UreaN-23* Creat-1.0 Na-137 
K-4.2 Cl-101 HCO3-24 AnGap-16
___ 12:40AM BLOOD ALT-10 AST-21 AlkPhos-124* TotBili-0.6
___ 12:40AM BLOOD Lipase-10
___ 12:40AM BLOOD proBNP-4661*
___ 12:40AM BLOOD cTropnT-0.06*
___ 06:20AM BLOOD cTropnT-0.05*
___ 12:40AM BLOOD Albumin-3.5 Calcium-7.9* Phos-4.4 Mg-2.0
___ 11:48PM BLOOD ___ pO2-65* pCO2-65* pH-7.24* 
calTCO2-29 Base XS--1 Comment-GREEN TOP
___ 12:12AM BLOOD Lactate-2.0

DISCHARGE LABS:
#ERROR!
___ 07:25AM BLOOD WBC-6.4 RBC-4.64 Hgb-13.5 Hct-42.3 MCV-91 
MCH-29.1 MCHC-31.9* RDW-14.8 RDWSD-48.9* Plt ___
___ 07:25AM BLOOD Glucose-90 UreaN-25* Creat-0.9 Na-138 
K-4.4 Cl-99 HCO3-30 AnGap-13
___ 07:25AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.1

NOTABLE LABS:
#ERROR!

___ 12:40AM BLOOD cTropnT-0.06*
___ 06:20AM BLOOD cTropnT-0.05*
___ 01:42AM BLOOD cTropnT-0.04*
___ 08:05AM BLOOD cTropnT-0.06*
___ 02:57PM BLOOD cTropnT-0.04*

___ 01:42AM BLOOD TSH-5.8*

___ 11:48PM BLOOD ___ pO2-65* pCO2-65* pH-7.24* 
calTCO2-29 Base XS--1 Comment-GREEN TOP
___ 03:57AM BLOOD Type-ART pO2-59* pCO2-54* pH-7.35 
calTCO2-31* Base XS-2
___ 09:30AM BLOOD Type-ART pO2-83* pCO2-53* pH-7.36 
calTCO2-31* Base XS-2 Intubat-NOT INTUBA
___ 03:12PM BLOOD ___ pO2-94 pCO2-60* pH-7.34* 
calTCO2-34* Base XS-3

IMAGING:
#ERROR!
___ Imaging CHEST (PORTABLE AP)    
1. Compared to ___, persistent hyperinflation of the 
lungs suggestive of COPD, with unchanged appearance of the 
cardiomediastinal silhouette. 
2. The previously seen pulmonary edema has effectively resolved. 

3. No large volume pleural effusion or pneumothorax. 
4. Persistent opacification at the left lung base, likely 
representing 
atelectasis. 

___ Cardiovascular ECHO 
1) Normal biventricular regional/global systolic function.
2) Grade II LV diastolic dysfunction with elevated LVEDP by 
E/e'. 
      
___ Imaging CHEST (PORTABLE AP)
There are no prior chest radiographs available. 
This study is compared to a subsequent chest radiograph 
available the time of this this review, showing that mild 
interstitial edema is present on the current examination and 
improved over the next 9 hours.  Mild left lower lobe 
atelectasis does not change.  No appreciable pleural effusion.  
Heart size normal.  Large lung volumes suggest emphysema. 

 
___ CTA (OSH)
No evidence of PNA or PE 
 
Brief Hospital Course:
___ with PMH significant for HTN, HLD, and ~30 pack year smoking 
history who presents with 3 days of cough, found to have diffuse 
wheezing and decreased air movement concerning for COPD 
exacerbation, clinical picture consistent with hypoxic 
respiratory failure ___ flash pulmonary edema and COPD 
exacerbation v PNA. Patient also presented with hypertensive 
crisis and persistent tachycardia. Patient was started on 
levalbuterol (given tachycardia) and ipratropium nebs, 
prednisone, and azithrmoycin. She was started on verapamil for 
HTN crisis (SBPs 190s-220s). On HD 2, she acutely worsened and 
CXR showed area of consolidation and pulmonary edema. She was 
given IV Lasix and started on ceftriaxone. On HD 3, patient 
clinically improved. On HD 4, patient was noted to be in afib 
with RVR. Verapamil was d/c'd and she was started on diltiazem 
PO 30mg TID, which was uptitrated for rate control. She was also 
started on apixaban. She was subsequently converted to diltiazem 
ER PO 120mg. Her home lisinopril 10mg PO was continued as well 
for HTN control. After completion of steroid burst and 
antibiotics, she was eventually transitioned to Spiriva and 
albuterol PRN for COPD management. She was evaluated by ___ who 
recommended discharge home with services including home ___. 

#Hypoxic respiratory failure: patient presented with 
non-productive cough, diffuse wheezing and decreased air 
movement on exam. OSH CTA neg for PE and pneumonia, although 
with some areas of consolidation that could be consistent with 
atypical pneumonia. Patient without fevers or leukocytosis. She 
required increasing amounts of O2 to support her oxygenation and 
blood gases revealed PO2 <60. Patient's respiratory failure was 
thought to be due to COPD exacerbation v community-acquired 
pneumonia. She was placed on continuous O2 monitoring. She was 
started on levalbuterol (due to tachycardia), tiotropium 
nebulizers. She was given a prednisone burst (50mg x5 days) and 
started on azithromycin. When patient's respiratory status 
declined on HD 2, she was started on ceftriaxone for CAP and 
given a longer course of azithromycin. She was also found to 
have 2 episodes of flash pulmonary edema ___ hypertensive crisis 
(see below) and given lasix 20mg IV x3. Patient's respiratory 
status improved and she was eventually weaned off oxygen prior 
to discharge. She was discharged on spiriva and albuterol PRN. 

#Hypertensive Crisis: patient with hx HTN, unknown baseline, on 
lisinopril 10mg daily. During the admission she triggered 
multiple times for SBPs 190s-220s that resulted in flash 
pulmonary edema and contributed to the patient's respiratory 
failure. Initially she was responsive to captopril; however when 
she needed rate control for her atrial fibrillation she was 
switched to verapamil. When further rate control was needed, she 
was changed to diltiazem PO and uptitrated to 45mg PO q6h. She 
was eventually transitioned to Dilt ER 120mg PO daily. Her SBPs 
were in the 140s-150s. Her home lisinopril 10mg PO daily was 
added with resultant pressures in the 110s-120s range.  

#Afib with RVR: Patient without known cardiac history. Upon 
admission, trop 0.06, repeat trops 0.04-0.06. She was noted to 
have new fib on tele in the ED; however, EKGs with sinus 
tachycardia. Repeat EKG with HR ___ with j-points and without 
evidence of acute ischemic changes. TSH 5.8. A TTE showed grade 
II diastolic dysfunction, normal systolic function and EF. Trop 
leak thought likely ___ tachycardia and hypertensive crisis. 
Patient then was noted to be in a fib with RVR on telemetry. She 
was initially started on verapamil then transitioned to 
diltiazem. She triggered multiple times during the admission for 
afib with RVR to the 160s-170s during which episodes she was 
given IV metoprolol and IV dilt. The diltiazem was uptitrated to 
45mg PO q6h then switched to dilt ER 120mg. Patient's CHADS-Vasc 
score was calculated to be 5. After discussion with the patient 
about the risks and benefits of anticoagulation, she was started 
on apixaban 2.5mg BID. Upon discharge, patient was in NSR with a 
rate of ___. 

#Deconditioning: Patient was noted to be frail on exam. ___ was 
c/s for evaluation for deconditioning and mobility. Initially ___ 
recommend rehab; however, patient adamantly refused rehab 
admission. During admission, ___ to continued to work with 
patient to improve endurance, mobility, and ventilation. She was 
eventually discharged home with a rolling walker and home ___ 
services. 

#?Dysphagia: patient noted by nurse to have difficulty 
swallowing pills, including pills given with apple sauce. She 
was evaluated by Speech and Swallow how noted no particular 
dysphagia and recommended regular diet with thin liquids, 
medications crushed with pureed solids, and aspiration 
precautions.

#Diarrhea: At baseline, patient reports chronic constipation and 
is on senna, miralaax, and PRN lactulose. On presentation 
patient with 2 day history of diarrhea with evidence of 
hypovolemia (dry mucus membranes and tachycardia).  Likely ___ 
bowel regimen. Her bowel regimen was held and the diarrhea 
resolved. The patient then reported constipation and she was 
restarted on her home bowel regimen with the addition of 
bisacodyl PRN. 

TRANSITIONAL ISSUES:
#ERROR!
[] Patient with new diagnosis of A. fib, on diltiazem ER 120mg 
daily for rate control. Please follow up patient's heart rate 
and titrate diltiazem dose as appropriate. 
[] Patient newly placed on anticoagulation with Apixaban 2.5mg 
BID for stroke prevention in setting of afib. Please monitor 
patient for signs/symptoms of bleeding.
[] Patient with hypertensive crisis upon admission, leading to 
two episodes of flash pulmonary edema. Patient currently on 
diltiazem ER 120mg daily and lisinopril 10mg daily. Please 
monitor patient's blood pressures and adjust medications as 
clinically appropriate. 
[] Patient presented with shortness of breath and wheezing with 
radiographic evidence of COPD; started on tiotropium daily and 
albuterol PRN. Please perform PFTs for diagnosis. 
[] She is newly diagnosed with diastolic heart failure but did 
not require diuresis in the 6 days prior to discharge. She is 
not being discharged on diuretics. Please continue to evaluate 
need for diuresis in the outpatient setting.

-CODE: FULL
-CONTACT: ___, daughter, cell: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Vesicare (solifenacin) 10 mg oral DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Senna 8.6 mg PO BID 
5. Polyethylene Glycol 17 g PO DAILY 
6. Lactulose 15 mL PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath, 
wheezing 
RX *albuterol sulfate [Ventolin HFA] 90 mcg 2 puffs inhaled q4 
PRN Disp #*1 Inhaler Refills:*0 
2.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl [Laxative (bisacodyl)] 5 mg 2 tablet(s) by mouth 
daily PRN Disp #*60 Tablet Refills:*0 
4.  Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
5.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap 
inhaled daily Disp #*30 Capsule Refills:*0 
6.  Atorvastatin 20 mg PO QPM  
7.  Lactulose 15 mL PO DAILY:PRN constipation  
8.  Lisinopril 10 mg PO DAILY  
9.  Polyethylene Glycol 17 g PO DAILY  
10.  Senna 8.6 mg PO BID  
11.  Vesicare (solifenacin) 10 mg oral DAILY  
12.Rolling walker
Please provide rolling walker
ICD10: J44.9, I50.33

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
#ERROR!
Hypoxic Respiratory Failure
Chronic Obstructive Pulmonary Disease Exacerbation 
Community Acquired Pneumonia
Atrial Fibrillation
Diastolic Congestive Heart Failure, Acute
HTN

SECONDARY DIAGNOSES:
#ERROR!
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were recently hospitalized at ___ 
___. Below is a description of your hospital stay.

WHY YOU WERE HERE?
#ERROR!
- You were admitted for shortness of breath and cough, likely 
from a COPD exacerbation and pneumonia. You were also found to 
have high blood pressure and an irregular heart rate. You had 
diastolic congestive heart failure which was likely a result of 
these above conditions.

WHAT HAPPENED WHILE YOU WERE HERE?
#ERROR!
- For your COPD exacerbation, you were given levalbuterol and 
ipratropium nebulizers. You also received antibiotics and 
steroids. 
- For your pneumonia, you were given antibiotics.
- For your high blood pressure, you were given medications to 
lower your blood pressure.
- You were seen by the physical therapists who worked with you 
to build up your strength. 
- You were found to have a fast, irregular heart rate. You were 
started on a medication to control your heart rate. 
- You were also started on a new medication called Eliquis 
(Apixaban) that helps to thin your blood and prevent stroke. We 
discussed the side effects of Apixaban and symptoms that would 
be concerning. 

Please call your primary care physician or come to the emergency 
department if you have: 
- Changes in your mental status (e.g. increased sleepiness or 
confusion)
- Headaches worse than usual
- severe skin bruising
- Abnormal bleeding 
- Blood in stool or dark/black tarry stool 
- Blood in your urine 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
#ERROR!
- Take all of your medications as prescribed. 
- Follow up with your primary care doctor about your high blood 
pressure, irregular heart rate, and COPD. 
- Continue to perform your physical therapy exercises. 

It was a pleasure taking care of you.

Your ___ Team

 
Followup Instructions:
___